Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Percocet
 
Attending: ___.
 
Chief Complaint:
abdominal pain, nausea, vomiting, diarrhea
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yo F with hx of R. basilic DVT on Coumadin, uterine fibroids 
and dysfunctional uterine bleeding, asthma, eczema who presents 
with 12 hours of cramping abdominal pain, n/v/d. 
. 
Patient reports n/v/d and abdominal pain since the morning of 
presentation. Reportedly the patient went to bring clothes to 
her son in ___ but when she got there she felt sick to her 
stomach. She had an episode of emesis and came to the ED for 
evaluation. She says pain is predominately epigastric and sharp 
in quality. It moves around her abdomen but not to her back. She 
says the pain is intermittent lasting for a few minutes at a 
___ and then improving to ___ in severity. Also reports 
subjective fevers and chills. Since this AM reports more than 10 
BMs that are watery brown. Also reports n/v x 3. She feels 
nauseated and lightheaded. Also complaints of dry mouth. 
. 
In the ED initial vital signs were 98.2 101 124/60 16 99% RA. 
Exam notable for epigastric pain. Labs were unremarkable. She 
was given 2L of IVF, zofran and promethazine for nausea, and 
morphine for pain. Her vomiting improved however she continued 
to feel lightheaded and her abdominal pain returned with rapid 
movement or standing, therefore, she was admitted to medicine 
for further workup and evaluation. Prior to transfer the patient 
reports that she had a large clot in the toilet bowl but is 
uncertain if this came from her rectum or vagina. Vitals upon 
transfer were 97.9, 131/84, 22, 84, 96%RA. 
.
Of note patient was seen in the ED on ___ for vaginal bleeding. 
She was evaluated by OBGYN and had a pelvic ultrasound showing 
fibroid uterus. She was prescribed Provera x 10 days which she 
started the day prior to admission. Her presenting pain on this 
ED visit did not feel similar to menstrual cramps. 
.
Currently, she feels some abdominal pain. Reports feeling 
thirsty and is requesting water. 

 
Past Medical History:
asthma
eczema
fibroid uterus
dysfunctional uterine bleeding 
nonocclusive right basilic DVT on Coumadin 

 
Social History:
___
Family History:
father - hx of MI in ___ or ___
brother - hx of cancer in the chest (unknown type)
grandmother - hx of MI in ___ 

 
Physical Exam:
admission exam 
VS - Temp 97.4F, BP:144/88, HR:99, R:18, O2-sat 97% RA  
GENERAL - obese ___ female in NAD
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, dry MM, OP clear 
 
NECK - supple, no cervical lymphadenopathy 
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use  
HEART -  mildly tachycardic, regular rhythm, no MRG, nl S1-S2  
ABDOMEN - obese. NABS. soft. tender to palpation in epigatric 
region. No rebound or guarding. 
RECTAL: tender to palpation. gross blood noted 
EXTREMITIES - WWP, trace ___ edema. 2+ DP pulses
SKIN - warm, dry
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout

discharge exam 
VS; 97.6 116/68 (116/68-146/84) 85 (85-99) 20 99% RA
GENERAL - obese ___ female in NAD
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, dry MM, OP clear 
 
NECK - supple, no cervical lymphadenopathy 
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use  
HEART -  RRR, no MRG, nl S1-S2  
ABDOMEN - obese. NABS. soft. mildly tender to palpation in 
epigatric region. No rebound or guarding. 
EXTREMITIES - WWP, trace ___ edema. 2+ DP pulses
SKIN - warm, dry
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout
 
Pertinent Results:
___ 01:46PM BLOOD WBC-7.3 RBC-6.28* Hgb-15.2 Hct-48.4* 
MCV-77* MCH-24.2* MCHC-31.5 RDW-13.8 Plt ___
___ 01:46PM BLOOD Neuts-84.4* Lymphs-11.4* Monos-3.0 
Eos-1.0 Baso-0.2
___ 09:40PM BLOOD WBC-7.6 RBC-5.28 Hgb-13.2 Hct-41.2 
MCV-78* MCH-25.0* MCHC-32.0 RDW-13.8 Plt ___
___ 09:40PM BLOOD ___ PTT-32.7 ___
___ 01:46PM BLOOD Glucose-116* UreaN-12 Creat-0.8 Na-139 
K-3.9 Cl-103 HCO3-23 AnGap-17
___ 01:46PM BLOOD ALT-24 AST-20 AlkPhos-123* TotBili-0.4
___ 01:46PM BLOOD Lipase-30
___ 01:46PM BLOOD Albumin-4.___ yo F with hx of RUE DVT on coumadin, fibroid uterus with DUB, 
asthma, who presents with abdominal pain, n/v x 1 day. 
.
# Abdominal pain, n/v/d: Most likely ___ to viral 
gastroenteritis given that she presented with both n/v and 
diarrhea.  She did not have evidence of fever or leukocytosis, 
and her abdominal exam was significant for only mild discomfort 
in the epigastric region.  LFTs and lipase were within normal 
limits, therefore, biliary or pancreatic pathology was unlikely. 
Patient was treated with IVF in the ED and overnight on the 
floor. She was given morphine for pain initially which was 
transitioned to po tramadol, and zofran for nausea. Patient was 
monitored overnight. The following day her nausea resolved and 
her frequency of diarrhea slowed. She was able to tolerate a 
regular diet and was not orthostatic. She was discharged home 
with plans to follow up with her primary care doctor. 
. 
# hx of fibroids and DUB - Patient was continued on her 
previously started 14 day course of Provera. 
.
# hx of RUE DVT - Patient's INR was therapeutic. She was 
continued on her home coumadin dose. 
. 
# hx of asthma -  continued home medications 
. 
Transitional Issues: 
- no labs pending at time of discharge
- patient was full code on this admission 
 
Medications on Admission:
ALBUTEROL SULFATE - 90 mcg HFA Aerosol Inhaler - 2 (Two) puff(s) 
inh qid prn as needed for sob
BETAMETHASONE, AUGMENTED - 0.05 % Ointment - apply bid to itchy 
spots on arms/legs for up to 14 days per month avoid 
face-folds-genitals
CROMOLYN - 4 % Drops - ___ qtts(s) ___ ___
MOMETASONE - 0.1 % Lotion - apply to itchy scalp and rub in 3 
times per week as needed topical steroid, for itchy scalp
MONTELUKAST [SINGULAIR] - 10 mg Tablet - 1 Tablet(s) by mouth 
Daily Please take at night - No Substitution (not using)
ORPHENADRINE CITRATE - 100 mg Tablet Extended Release - 1 
Tablet(s) by mouth up to every 12 hours as needed for muscle 
pain and tightness
TRAMADOL - 50 mg Tablet - ___ Tablet(s) by mouth up to every 8 
hours as needed for nighttime pain
WARFARIN - 5 mg Tablet - 1 Tablet(s) by mouth as directed for 
DVT diagnosis
Provera 10  mg daily x 14 days

 
Discharge Medications:
1. albuterol sulfate 90 mcg/actuation HFA Aerosol Inhaler Sig: 
___ Puffs Inhalation Q4H (every 4 hours) as needed for SOB.  
2. betamethasone dipropionate 0.05 % Ointment Sig: One (1) Appl 
Topical BID (2 times a day).  
3. cromolyn 4 % Drops Sig: ___ drops Ophthalmic every ___ hours. 
 
4. mometasone 0.1 % Lotion Topical
5. orphenadrine citrate 100 mg Tablet Extended Release Sig: One 
(1) Tablet Extended Release PO twice a day as needed for pain.  
6. tramadol 50 mg Tablet Sig: ___ Tablets PO every eight (8) 
hours as needed for pain .  
7. warfarin 5 mg Tablet Sig: One (1) Tablet PO once a day: 
please take as directed by ___ clinic.  
8. medroxyprogesterone 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily) for 12 days.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
viral gastroenteritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure caring for you while you were admitted to 
___. You were admitted because you were having abdominal pain, 
nausea, vomiting, and diarrhea. This was likely related to a 
viral gastrointestinal illness. You were given intravenous 
fluids and monitored overnight. 
. 
There were no changes made to your medication regimen
. 
Please take all your medications as prescribed and follow up 
with your doctors as ___. 
 
Followup Instructions:
___